US05281571
A solution of 4-chloro-3-(4-chloro-2-fluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 20 mL of chlorosulfonic acid was heated in a 120° C. oil bath for four hours and allowed to cool to room temperature. Methylene chloride was added and the solution added dropwise to a stirring mixture of ice and water (caution, extremely reactive). The layers were separated and the aqueous layer was washed with methylene chloride. The combined organic layers were dried with MgSO4, filtered and concentrated and the resultant solid residue washed with a very small amount of ether and recrystallized from hexanes to afford 1.65 g (63%) of 2-chloro-5-[4-Chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenesulfonyl chloride as a white solid; mp 116°-117° C.

reactant | 4-chloro-3-(4-chloro-2-fluorophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C=C1)Cl)F | C11H6Cl2F4N2
reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
reactant | water | O | H2O
reactant | chlorosulfonic acid | 20 mL | ClS(=O)(=O)O | ClHO3S
product | 2-chloro-5-[4-Chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenesulfonyl chloride | 1.65 g, 63% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)S(=O)(=O)Cl | C11H5Cl3F4N2O2S
